*** SPICE deck for cell 1_bitALU_sim{sch} from library my_device_widths
*** Created on 星期四 四月 24, 2025 20:14:29
*** Last revised on 星期六 四月 26, 2025 16:01:37
*** Written on 星期三 五月 07, 2025 11:11:47 by Electric VLSI Design System, version 9.07
*** Layout tech: mocmos, foundry MOSIS
*** UC SPICE *** , MIN_RESIST 4.0, MIN_CAPAC 0.1FF

*** SUBCIRCUIT my_device_widths__my_inv_4 FROM CELL my_inv_4{sch}
.SUBCKT my_device_widths__my_inv_4 in out
** GLOBAL gnd
** GLOBAL vdd
Mnmos-4@0 out in gnd gnd NMOS L=0.6U W=7.5U
Mpmos-4@0 out in vdd vdd PMOS L=0.6U W=9U
.ENDS my_device_widths__my_inv_4

*** SUBCIRCUIT my_device_widths__2_1MUX FROM CELL 2_1MUX{sch}
.SUBCKT my_device_widths__2_1MUX A B Cin OUT
** GLOBAL gnd
** GLOBAL vdd
Mnmos-4@0 A net@98 OUT gnd NMOS L=0.6U W=7.5U
Mnmos-4@1 OUT Cin B gnd NMOS L=0.6U W=7.5U
Mpmos-4@0 A Cin OUT vdd PMOS L=0.6U W=9U
Mpmos-4@1 OUT net@98 B vdd PMOS L=0.6U W=9U
Xmy_inv_4@0 Cin net@98 my_device_widths__my_inv_4

* Spice Code nodes in cell cell '2_1MUX{sch}'
#VDD VDD 0 DC 5
#VINA A 0 DC 0 PULSE 0 5 1N 1N 1N 25N 50N
#VINB B 0 DC 0 PULSE 0 5 1N 1N 1N 50N 100N
#VINCin Cin 0 DC 0 PULSE 0 5 1N 1N 1N 100N 200N
#.TRAN 0 400N
.include C:\Users\R9000X\Electric\C5_models.txt
.ENDS my_device_widths__2_1MUX

*** SUBCIRCUIT my_device_widths__C_GEN FROM CELL C_GEN{sch}
.SUBCKT my_device_widths__C_GEN C_Sel Cin Cout S0 S1 S2 S3
** GLOBAL gnd
** GLOBAL vdd
Mnmos-4@0 net@31 S3 gnd gnd NMOS L=0.6U W=7.5U
Mnmos-4@1 net@32 net@2 net@31 gnd NMOS L=0.6U W=7.5U
Mnmos-4@2 net@33 net@18 net@32 gnd NMOS L=0.6U W=7.5U
Mnmos-4@3 net@23 S0 net@33 gnd NMOS L=0.6U W=7.5U
Mnmos-4@4 net@48 S3 vdd gnd NMOS L=0.6U W=7.5U
Mnmos-4@5 net@50 net@2 net@48 gnd NMOS L=0.6U W=7.5U
Mnmos-4@6 net@51 net@18 net@50 gnd NMOS L=0.6U W=7.5U
Mnmos-4@7 net@23 net@8 net@51 gnd NMOS L=0.6U W=7.5U
Mnmos-4@8 net@82 net@11 vdd gnd NMOS L=0.6U W=7.5U
Mnmos-4@9 net@84 S2 net@82 gnd NMOS L=0.6U W=7.5U
Mnmos-4@10 net@24 S1 net@84 gnd NMOS L=0.6U W=7.5U
Mnmos-4@11 net@23 S0 net@24 gnd NMOS L=0.6U W=7.5U
Mnmos-4@12 net@73 S3 gnd gnd NMOS L=0.6U W=7.5U
Mnmos-4@13 net@4 net@2 net@73 gnd NMOS L=0.6U W=7.5U
Mnmos-4@14 net@7 S1 net@4 gnd NMOS L=0.6U W=7.5U
Mnmos-4@15 net@23 net@8 net@7 gnd NMOS L=0.6U W=7.5U
Mpmos-4@0 gnd net@11 net@39 vdd PMOS L=0.6U W=9U
Mpmos-4@1 net@39 S2 net@40 vdd PMOS L=0.6U W=9U
Mpmos-4@2 net@40 S1 net@41 vdd PMOS L=0.6U W=9U
Mpmos-4@3 net@41 net@8 net@23 vdd PMOS L=0.6U W=9U
Mpmos-4@4 vdd net@11 net@60 vdd PMOS L=0.6U W=9U
Mpmos-4@5 net@60 S2 net@66 vdd PMOS L=0.6U W=9U
Mpmos-4@6 net@66 S1 net@62 vdd PMOS L=0.6U W=9U
Mpmos-4@7 net@62 S0 net@23 vdd PMOS L=0.6U W=9U
Mpmos-4@8 vdd S3 net@90 vdd PMOS L=0.6U W=9U
Mpmos-4@9 net@90 net@2 net@100 vdd PMOS L=0.6U W=9U
Mpmos-4@10 net@100 net@18 net@104 vdd PMOS L=0.6U W=9U
Mpmos-4@11 net@104 net@8 net@23 vdd PMOS L=0.6U W=9U
Mpmos-4@12 gnd net@11 net@71 vdd PMOS L=0.6U W=9U
Mpmos-4@13 net@71 S2 net@21 vdd PMOS L=0.6U W=9U
Mpmos-4@14 net@21 net@18 net@29 vdd PMOS L=0.6U W=9U
Mpmos-4@15 net@29 S0 net@23 vdd PMOS L=0.6U W=9U
X_2_1MUX@0 Cin net@23 C_Sel Cout my_device_widths__2_1MUX
Xmy_inv_4@0 S3 net@11 my_device_widths__my_inv_4
Xmy_inv_4@1 S2 net@2 my_device_widths__my_inv_4
Xmy_inv_4@2 S1 net@18 my_device_widths__my_inv_4
Xmy_inv_4@3 S0 net@8 my_device_widths__my_inv_4

* Spice Code nodes in cell cell 'C_GEN{sch}'
#VDD VDD 0 DC 5
#VINC_Sel C_Sel 0 DC 0 PULSE 0 5 1N 1N 1N 1000N 1000N
#VINS0 S0 0 DC 0 PULSE 0 5 1N 1N 1N 500N 1000N
#VINS1 S1 0 DC 0 PULSE 0 5 1N 1N 1N 0N 1000N
#VINS2 S2 0 DC 0 PULSE 0 5 1N 1N 1N 0N 1000N
#VINS3 S3 0 DC 0 PULSE 0 5 1N 1N 1N 1000N 1000N
#.TRAN 0 1000N
.include C:\Users\R9000X\Electric\C5_models.txt
.ENDS my_device_widths__C_GEN

*** SUBCIRCUIT my_device_widths__8_1MUX FROM CELL 8_1MUX{sch}
.SUBCKT my_device_widths__8_1MUX I1 I2 I3 I4 I5 I6 I7 I8 OUT S0 S1 S2
** GLOBAL gnd
** GLOBAL vdd
Mnmos-4@0 I1 S2bar net@1 gnd NMOS L=0.6U W=7.5U
Mnmos-4@1 net@1 S1bar net@3 gnd NMOS L=0.6U W=7.5U
Mnmos-4@2 net@3 S0bar OUT gnd NMOS L=0.6U W=7.5U
Mnmos-4@3 I2 S2bar net@19 gnd NMOS L=0.6U W=7.5U
Mnmos-4@4 net@19 S1bar net@20 gnd NMOS L=0.6U W=7.5U
Mnmos-4@5 net@20 S0 OUT gnd NMOS L=0.6U W=7.5U
Mnmos-4@6 I3 S2bar net@39 gnd NMOS L=0.6U W=7.5U
Mnmos-4@7 net@39 S1 net@40 gnd NMOS L=0.6U W=7.5U
Mnmos-4@8 net@40 S0bar OUT gnd NMOS L=0.6U W=7.5U
Mnmos-4@9 I4 S2bar net@57 gnd NMOS L=0.6U W=7.5U
Mnmos-4@10 net@57 S1 net@58 gnd NMOS L=0.6U W=7.5U
Mnmos-4@11 net@58 S0 OUT gnd NMOS L=0.6U W=7.5U
Mnmos-4@12 I5 S2 net@70 gnd NMOS L=0.6U W=7.5U
Mnmos-4@13 net@70 S1bar net@71 gnd NMOS L=0.6U W=7.5U
Mnmos-4@14 net@71 S0bar OUT gnd NMOS L=0.6U W=7.5U
Mnmos-4@15 I6 S2 net@83 gnd NMOS L=0.6U W=7.5U
Mnmos-4@16 net@83 S1bar net@84 gnd NMOS L=0.6U W=7.5U
Mnmos-4@17 net@84 S0 OUT gnd NMOS L=0.6U W=7.5U
Mnmos-4@18 I7 S2 net@97 gnd NMOS L=0.6U W=7.5U
Mnmos-4@19 net@97 S1 net@96 gnd NMOS L=0.6U W=7.5U
Mnmos-4@20 net@96 S0bar OUT gnd NMOS L=0.6U W=7.5U
Mnmos-4@21 I8 S2 net@109 gnd NMOS L=0.6U W=7.5U
Mnmos-4@22 net@109 S1 net@110 gnd NMOS L=0.6U W=7.5U
Mnmos-4@23 net@110 S0 OUT gnd NMOS L=0.6U W=7.5U
Mpmos-4@0 net@5 S1 net@6 vdd PMOS L=0.6U W=9U
Mpmos-4@1 net@6 S0 OUT vdd PMOS L=0.6U W=9U
Mpmos-4@2 I1 S2 net@5 vdd PMOS L=0.6U W=9U
Mpmos-4@3 I2 S2 net@29 vdd PMOS L=0.6U W=9U
Mpmos-4@4 net@29 S1 net@30 vdd PMOS L=0.6U W=9U
Mpmos-4@5 net@30 S0bar OUT vdd PMOS L=0.6U W=9U
Mpmos-4@6 I3 S2 net@53 vdd PMOS L=0.6U W=9U
Mpmos-4@7 net@53 S1bar net@54 vdd PMOS L=0.6U W=9U
Mpmos-4@8 net@54 S0 OUT vdd PMOS L=0.6U W=9U
Mpmos-4@9 I4 S2 net@62 vdd PMOS L=0.6U W=9U
Mpmos-4@10 net@62 S1bar net@63 vdd PMOS L=0.6U W=9U
Mpmos-4@11 net@63 S0bar OUT vdd PMOS L=0.6U W=9U
Mpmos-4@12 I5 S2bar net@75 vdd PMOS L=0.6U W=9U
Mpmos-4@13 net@75 S1 net@76 vdd PMOS L=0.6U W=9U
Mpmos-4@14 net@76 S0 OUT vdd PMOS L=0.6U W=9U
Mpmos-4@15 I6 S2bar net@91 vdd PMOS L=0.6U W=9U
Mpmos-4@16 net@91 S1 net@88 vdd PMOS L=0.6U W=9U
Mpmos-4@17 net@88 S0bar OUT vdd PMOS L=0.6U W=9U
Mpmos-4@18 I7 S2bar net@101 vdd PMOS L=0.6U W=9U
Mpmos-4@19 net@101 S1bar net@102 vdd PMOS L=0.6U W=9U
Mpmos-4@20 net@102 S0 OUT vdd PMOS L=0.6U W=9U
Mpmos-4@21 I8 S2bar net@117 vdd PMOS L=0.6U W=9U
Mpmos-4@22 net@117 S1bar net@116 vdd PMOS L=0.6U W=9U
Mpmos-4@23 net@116 S0bar OUT vdd PMOS L=0.6U W=9U
Xmy_inv_4@0 S2 S2bar my_device_widths__my_inv_4
Xmy_inv_4@1 S1 S1bar my_device_widths__my_inv_4
Xmy_inv_4@2 S0 S0bar my_device_widths__my_inv_4

* Spice Code nodes in cell cell '8_1MUX{sch}'
#VDD VDD 0 DC 5
#VINI1 I1 0 DC 0 PULSE 0 5 1N 1N 1N 50N 100N
#VINI2 I2 0 DC 0 PULSE 0 5 1N 1N 1N 150N 200N
#VINI3 I3 0 DC 0 PULSE 0 5 1N 1N 1N 250N 300N
#VINI4 I4 0 DC 0 PULSE 0 5 1N 1N 1N 350N 400N
#VINI5 I5 0 DC 0 PULSE 0 5 1N 1N 1N 450N 500N
#VINI6 I6 0 DC 0 PULSE 0 5 1N 1N 1N 550N 600N
#VINI7 I7 0 DC 0 PULSE 0 5 1N 1N 1N 650N 700N
#VINI8 I8 0 DC 0 PULSE 0 5 1N 1N 1N 750N 800N
#VINIS2 S2 0 DC 0 PULSE 0 5 1N 1N 1N 200N 300N
#VINIS1 S1 0 DC 0 PULSE 0 5 1N 1N 1N 100N 200N
#VINIS0 S0 0 DC 0 PULSE 0 5 1N 1N 1N 50N 100N
#.TRAN 0 800N
.include C:\Users\R9000X\Electric\C5_models.txt
.ENDS my_device_widths__8_1MUX

*** SUBCIRCUIT my_device_widths__AND FROM CELL AND{sch}
.SUBCKT my_device_widths__AND A AandB B
** GLOBAL gnd
** GLOBAL vdd
Mnmos-4@0 net@11 A net@1 gnd NMOS L=0.6U W=7.5U
Mnmos-4@1 net@1 B gnd gnd NMOS L=0.6U W=7.5U
Mpmos-4@0 net@11 B vdd vdd PMOS L=0.6U W=9U
Mpmos-4@1 net@11 A vdd vdd PMOS L=0.6U W=9U
Xmy_inv_4@0 net@11 AandB my_device_widths__my_inv_4

* Spice Code nodes in cell cell 'AND{sch}'
#VDD VDD 0 DC 5
#VINA A 0 DC 0 PULSE 0 5 1N 1N 1N 25N 50N
#VINB B 0 DC 0 PULSE 0 5 1N 1N 1N 50N 100N
#.TRAN 0 400N
.include C:\Users\R9000X\Electric\C5_models.txt
.ENDS my_device_widths__AND

*** SUBCIRCUIT my_device_widths__NAND FROM CELL NAND{sch}
.SUBCKT my_device_widths__NAND A AnandB B
** GLOBAL gnd
** GLOBAL vdd
Mnmos-4@0 AnandB A net@18 gnd NMOS L=0.6U W=7.5U
Mnmos-4@1 net@18 B gnd gnd NMOS L=0.6U W=7.5U
Mpmos-4@0 AnandB B vdd vdd PMOS L=0.6U W=9U
Mpmos-4@1 AnandB A vdd vdd PMOS L=0.6U W=9U

* Spice Code nodes in cell cell 'NAND{sch}'
#VDD VDD 0 DC 5
#VINA A 0 DC 0 PULSE 0 5 1N 1N 1N 25N 50N
#VINB B 0 DC 0 PULSE 0 5 1N 1N 1N 50N 100N
#.TRAN 0 400N
.include C:\Users\R9000X\Electric\C5_models.txt
.ENDS my_device_widths__NAND

*** SUBCIRCUIT my_device_widths__NOR FROM CELL NOR{sch}
.SUBCKT my_device_widths__NOR A AnorB B
** GLOBAL gnd
** GLOBAL vdd
Mnmos-4@0 AnorB A gnd gnd NMOS L=0.6U W=7.5U
Mnmos-4@1 AnorB B gnd gnd NMOS L=0.6U W=7.5U
Mpmos-4@0 net@52 A vdd vdd PMOS L=0.6U W=9U
Mpmos-4@1 AnorB B net@52 vdd PMOS L=0.6U W=9U

* Spice Code nodes in cell cell 'NOR{sch}'
#VDD VDD 0 DC 5
#VINA A 0 DC 0 PULSE 0 5 1N 1N 1N 25N 50N
#VINB B 0 DC 0 PULSE 0 5 1N 1N 1N 50N 100N
#.TRAN 0 400N
.include C:\Users\R9000X\Electric\C5_models.txt
.ENDS my_device_widths__NOR

*** SUBCIRCUIT my_device_widths__OR FROM CELL OR{sch}
.SUBCKT my_device_widths__OR A AorB B
** GLOBAL gnd
** GLOBAL vdd
Mnmos-4@0 net@1 A gnd gnd NMOS L=0.6U W=7.5U
Mnmos-4@1 net@1 B gnd gnd NMOS L=0.6U W=7.5U
Mpmos-4@0 net@47 A vdd vdd PMOS L=0.6U W=9U
Mpmos-4@1 net@1 B net@47 vdd PMOS L=0.6U W=9U
Xmy_inv_4@0 net@1 AorB my_device_widths__my_inv_4

* Spice Code nodes in cell cell 'OR{sch}'
#VDD VDD 0 DC 5
#VINA A 0 DC 0 PULSE 0 5 1N 1N 1N 25N 50N
#VINB B 0 DC 0 PULSE 0 5 1N 1N 1N 50N 100N
#.TRAN 0 400N
.include C:\Users\R9000X\Electric\C5_models.txt
.ENDS my_device_widths__OR

*** SUBCIRCUIT my_device_widths__inv FROM CELL inv{sch}
.SUBCKT my_device_widths__inv in out
** GLOBAL gnd
** GLOBAL vdd
Mnmos@0 out in gnd gnd NMOS L=0.6U W=7.5U
Mpmos@0 out in vdd vdd PMOS L=0.6U W=9U
.ENDS my_device_widths__inv

*** SUBCIRCUIT my_device_widths__XNOR FROM CELL XNOR{sch}
.SUBCKT my_device_widths__XNOR A AxnorB B
** GLOBAL gnd
** GLOBAL vdd
Mnmos-4@0 net@1 B net@37 gnd NMOS L=0.6U W=7.5U
Mnmos-4@1 net@1 Bbar net@11 gnd NMOS L=0.6U W=7.5U
Mnmos-4@2 net@37 A gnd gnd NMOS L=0.6U W=7.5U
Mnmos-4@3 net@11 Abar gnd gnd NMOS L=0.6U W=7.5U
Mnmos-4@4 AxnorB net@1 gnd gnd NMOS L=0.6U W=7.5U
Mpmos-4@0 net@1 B net@16 vdd PMOS L=0.6U W=9U
Mpmos-4@1 net@16 Abar vdd vdd PMOS L=0.6U W=9U
Mpmos-4@2 net@1 Bbar net@25 vdd PMOS L=0.6U W=9U
Mpmos-4@3 net@25 A vdd vdd PMOS L=0.6U W=9U
Mpmos-4@4 AxnorB net@1 vdd vdd PMOS L=0.6U W=9U
Xinv@0 A Abar my_device_widths__inv
Xinv@1 B Bbar my_device_widths__inv

* Spice Code nodes in cell cell 'XNOR{sch}'
#VDD VDD 0 DC 5
#VINA A 0 DC 0 PULSE 0 5 1N 1N 1N 25N 50N
#VINB B 0 DC 0 PULSE 0 5 1N 1N 1N 50N 100N
#.TRAN 0 400N
.include C:\Users\R9000X\Electric\C5_models.txt
.ENDS my_device_widths__XNOR

*** SUBCIRCUIT my_device_widths__XOR FROM CELL XOR{sch}
.SUBCKT my_device_widths__XOR A B OUT
** GLOBAL gnd
** GLOBAL vdd
Mnmos-4@0 OUT B net@9 gnd NMOS L=0.6U W=7.5U
Mnmos-4@1 OUT Bbar net@35 gnd NMOS L=0.6U W=7.5U
Mnmos-4@2 net@9 A gnd gnd NMOS L=0.6U W=7.5U
Mnmos-4@3 net@35 Abar gnd gnd NMOS L=0.6U W=7.5U
Mpmos-4@0 OUT B net@44 vdd PMOS L=0.6U W=9U
Mpmos-4@1 net@44 Abar vdd vdd PMOS L=0.6U W=9U
Mpmos-4@2 OUT Bbar net@6 vdd PMOS L=0.6U W=9U
Mpmos-4@3 net@6 A vdd vdd PMOS L=0.6U W=9U
Xinv@0 A Abar my_device_widths__inv
Xinv@1 B Bbar my_device_widths__inv

* Spice Code nodes in cell cell 'XOR{sch}'
#VDD VDD 0 DC 5
#VINA A 0 DC 0 PULSE 0 5 1N 1N 1N 25N 50N
#VINB B 0 DC 0 PULSE 0 5 1N 1N 1N 50N 100N
#.TRAN 0 400N
.include C:\Users\R9000X\Electric\C5_models.txt
.ENDS my_device_widths__XOR

*** SUBCIRCUIT my_device_widths__Logic_ALU FROM CELL Logic_ALU{sch}
.SUBCKT my_device_widths__Logic_ALU A B OUT S0 S1 S2
** GLOBAL gnd
** GLOBAL vdd
X_8_1MUX@1 net@20 net@23 net@26 net@30 net@37 net@34 net@31 gnd OUT S0 S1 S2 my_device_widths__8_1MUX
XAND@0 A net@37 B my_device_widths__AND
XNAND@0 A net@30 B my_device_widths__NAND
XNOR@0 A net@34 B my_device_widths__NOR
XOR@0 A net@20 B my_device_widths__OR
XXNOR@0 A net@31 B my_device_widths__XNOR
XXOR@0 A B net@26 my_device_widths__XOR
Xmy_inv_4@0 A net@23 my_device_widths__my_inv_4
.ENDS my_device_widths__Logic_ALU

*** SUBCIRCUIT my_device_widths__Three_state_gate FROM CELL Three_state_gate{sch}
.SUBCKT my_device_widths__Three_state_gate C IN OUT
** GLOBAL gnd
** GLOBAL vdd
Mnmos-4@1 IN net@58 OUT gnd NMOS L=0.6U W=7.5U
Mpmos-4@1 IN C OUT vdd PMOS L=0.6U W=9U
Xmy_inv_4@0 C net@58 my_device_widths__my_inv_4

* Spice Code nodes in cell cell 'Three_state_gate{sch}'
#VDD VDD 0 DC 5
#TRANSIENT RESPONSE
#VIN IN 0 DC 0 PULSE 0 5 1N 1N 1N 50N 250N
#VC C 0 DC 0 PULSE 0 5 1N 1N 1N 100N 200N
#.TRAN 0 1000N
.INCLUDE C:\Users\R9000X\Electric\C5_models.txt
.ENDS my_device_widths__Three_state_gate

*** SUBCIRCUIT my_device_widths__Sel FROM CELL Sel{sch}
.SUBCKT my_device_widths__Sel AU LU OUT S0 S1 S2 S3
** GLOBAL gnd
** GLOBAL vdd
X_2_1MUX@0 LU net@9 net@4 OUT my_device_widths__2_1MUX
XAND@0 S2 net@2 net@3 my_device_widths__AND
XAND@1 S0 net@3 S1 my_device_widths__AND
XAND@2 S2 net@12 S1bar my_device_widths__AND
XAND@3 S2 net@14 S0bar my_device_widths__AND
XAND@4 S1 net@19 S0 my_device_widths__AND
XAND@5 net@26 net@28 S3 my_device_widths__AND
XOR@0 S3 net@4 net@2 my_device_widths__OR
XOR@1 net@12 net@17 net@14 my_device_widths__OR
XOR@2 net@17 net@26 net@19 my_device_widths__OR
XThree_st@0 net@28 AU net@9 my_device_widths__Three_state_gate
Xmy_inv_4@0 S1 S1bar my_device_widths__my_inv_4
Xmy_inv_4@1 S0 S0bar my_device_widths__my_inv_4

* Spice Code nodes in cell cell 'Sel{sch}'
#VDD VDD 0 DC 5
#VINAU AU 0 DC 0 PULSE 0 5 1N 1N 1N 200N 300N
#VINLU LU 0 DC 0 PULSE 0 5 1N 1N 1N 300N 400N
#VINS0 S0 0 DC 0 PULSE 0 5 1N 1N 1N 250N 500N
#VINS1 S1 0 DC 0 PULSE 0 5 1N 1N 1N 250N 500N
#VINS2 S2 0 DC 0 PULSE 0 5 1N 1N 1N 250N 500N
#VINS3 S3 0 DC 0 PULSE 0 5 1N 1N 1N 500N 1000N
#.TRAN 0 1000N
.include C:\Users\R9000X\Electric\C5_models.txt
.ENDS my_device_widths__Sel

*** SUBCIRCUIT my_device_widths__inv_4 FROM CELL inv_4{sch}
.SUBCKT my_device_widths__inv_4 in out
** GLOBAL gnd
** GLOBAL vdd
Mnmos-4@0 out in gnd gnd NMOS L=0.6U W=3U
Mpmos-4@0 out in vdd vdd PMOS L=0.6U W=6U
.ENDS my_device_widths__inv_4

*** SUBCIRCUIT my_device_widths__TRANADDER FROM CELL TRANADDER{sch}
.SUBCKT my_device_widths__TRANADDER A B Cin COUT SUM
** GLOBAL gnd
** GLOBAL vdd
Mnmos-4@0 SUM B net@34 gnd NMOS L=0.6U W=3U
Mnmos-4@1 net@34 A net@35 gnd NMOS L=0.6U W=3U
Mnmos-4@2 net@35 Cinbar gnd gnd NMOS L=0.6U W=3U
Mnmos-4@3 SUM Bbar net@56 gnd NMOS L=0.6U W=3U
Mnmos-4@4 net@56 Abar net@57 gnd NMOS L=0.6U W=3U
Mnmos-4@5 net@57 Cinbar gnd gnd NMOS L=0.6U W=3U
Mnmos-4@6 SUM B net@67 gnd NMOS L=0.6U W=3U
Mnmos-4@7 net@67 Abar net@68 gnd NMOS L=0.6U W=3U
Mnmos-4@8 net@68 Cin gnd gnd NMOS L=0.6U W=3U
Mnmos-4@9 SUM Bbar net@91 gnd NMOS L=0.6U W=3U
Mnmos-4@10 net@91 A net@92 gnd NMOS L=0.6U W=3U
Mnmos-4@11 net@92 Cin gnd gnd NMOS L=0.6U W=3U
Mnmos-4@12 COUT Bbar net@169 gnd NMOS L=0.6U W=3U
Mnmos-4@13 net@169 A net@170 gnd NMOS L=0.6U W=3U
Mnmos-4@14 net@170 Cinbar gnd gnd NMOS L=0.6U W=3U
Mnmos-4@15 COUT B net@183 gnd NMOS L=0.6U W=3U
Mnmos-4@16 net@183 Abar net@184 gnd NMOS L=0.6U W=3U
Mnmos-4@17 net@184 Cinbar gnd gnd NMOS L=0.6U W=3U
Mnmos-4@18 COUT Bbar net@103 gnd NMOS L=0.6U W=3U
Mnmos-4@19 net@103 Abar net@104 gnd NMOS L=0.6U W=3U
Mnmos-4@20 net@104 Cinbar gnd gnd NMOS L=0.6U W=3U
Mnmos-4@21 COUT Bbar net@130 gnd NMOS L=0.6U W=3U
Mnmos-4@22 net@130 Abar net@131 gnd NMOS L=0.6U W=3U
Mnmos-4@23 net@131 Cin gnd gnd NMOS L=0.6U W=3U
Mpmos-4@0 net@329 Cinbar vdd vdd PMOS L=0.6U W=6U
Mpmos-4@1 net@1 A net@329 vdd PMOS L=0.6U W=6U
Mpmos-4@2 SUM B net@1 vdd PMOS L=0.6U W=6U
Mpmos-4@3 net@311 Cinbar vdd vdd PMOS L=0.6U W=6U
Mpmos-4@4 net@13 Abar net@311 vdd PMOS L=0.6U W=6U
Mpmos-4@5 SUM Bbar net@13 vdd PMOS L=0.6U W=6U
Mpmos-4@6 net@310 Cin vdd vdd PMOS L=0.6U W=6U
Mpmos-4@7 net@24 Abar net@310 vdd PMOS L=0.6U W=6U
Mpmos-4@8 SUM B net@24 vdd PMOS L=0.6U W=6U
Mpmos-4@9 net@309 Cin vdd vdd PMOS L=0.6U W=6U
Mpmos-4@10 net@81 A net@309 vdd PMOS L=0.6U W=6U
Mpmos-4@11 SUM Bbar net@81 vdd PMOS L=0.6U W=6U
Mpmos-4@12 net@334 Cinbar vdd vdd PMOS L=0.6U W=6U
Mpmos-4@13 net@140 A net@334 vdd PMOS L=0.6U W=6U
Mpmos-4@14 COUT Bbar net@140 vdd PMOS L=0.6U W=6U
Mpmos-4@15 net@335 Cinbar vdd vdd PMOS L=0.6U W=6U
Mpmos-4@16 net@147 Abar net@335 vdd PMOS L=0.6U W=6U
Mpmos-4@17 COUT B net@147 vdd PMOS L=0.6U W=6U
Mpmos-4@18 net@337 Cinbar vdd vdd PMOS L=0.6U W=6U
Mpmos-4@19 net@158 Abar net@337 vdd PMOS L=0.6U W=6U
Mpmos-4@20 COUT Bbar net@158 vdd PMOS L=0.6U W=6U
Mpmos-4@21 net@336 Cin vdd vdd PMOS L=0.6U W=6U
Mpmos-4@22 net@119 Abar net@336 vdd PMOS L=0.6U W=6U
Mpmos-4@23 COUT Bbar net@119 vdd PMOS L=0.6U W=6U
Xinv_4@0 A Abar my_device_widths__inv_4
Xinv_4@1 B Bbar my_device_widths__inv_4
Xinv_4@2 Cin Cinbar my_device_widths__inv_4
.ENDS my_device_widths__TRANADDER

*** SUBCIRCUIT my_device_widths__Y_GEN FROM CELL Y_GEN{sch}
.SUBCKT my_device_widths__Y_GEN bi S0 S1 S2 S3 yi
** GLOBAL gnd
** GLOBAL vdd
Mnmos-4@0 net@32 S3 bi gnd NMOS L=0.6U W=7.5U
Mnmos-4@1 net@34 net@255 net@32 gnd NMOS L=0.6U W=7.5U
Mnmos-4@2 net@36 net@246 net@34 gnd NMOS L=0.6U W=7.5U
Mnmos-4@3 yi S0 net@36 gnd NMOS L=0.6U W=7.5U
Mnmos-4@4 net@58 S3 net@69 gnd NMOS L=0.6U W=7.5U
Mnmos-4@5 net@61 net@255 net@58 gnd NMOS L=0.6U W=7.5U
Mnmos-4@6 net@64 net@246 net@61 gnd NMOS L=0.6U W=7.5U
Mnmos-4@7 yi net@65 net@64 gnd NMOS L=0.6U W=7.5U
Mnmos-4@9 net@131 net@73 gnd gnd NMOS L=0.6U W=7.5U
Mnmos-4@10 net@134 S2 net@131 gnd NMOS L=0.6U W=7.5U
Mnmos-4@11 net@206 S1 net@134 gnd NMOS L=0.6U W=7.5U
Mnmos-4@12 yi S0 net@206 gnd NMOS L=0.6U W=7.5U
Mnmos-4@13 net@113 S3 vdd gnd NMOS L=0.6U W=7.5U
Mnmos-4@14 net@185 net@255 net@113 gnd NMOS L=0.6U W=7.5U
Mnmos-4@15 net@188 S1 net@185 gnd NMOS L=0.6U W=7.5U
Mnmos-4@16 yi net@65 net@188 gnd NMOS L=0.6U W=7.5U
Mpmos-4@0 bi net@73 net@44 vdd PMOS L=0.6U W=9U
Mpmos-4@1 net@44 S2 net@47 vdd PMOS L=0.6U W=9U
Mpmos-4@2 net@47 S1 net@49 vdd PMOS L=0.6U W=9U
Mpmos-4@3 net@49 net@65 yi vdd PMOS L=0.6U W=9U
Mpmos-4@4 net@69 net@73 net@75 vdd PMOS L=0.6U W=9U
Mpmos-4@5 net@75 S2 net@90 vdd PMOS L=0.6U W=9U
Mpmos-4@6 net@90 S1 net@82 vdd PMOS L=0.6U W=9U
Mpmos-4@7 net@82 S0 yi vdd PMOS L=0.6U W=9U
Mpmos-4@9 gnd S3 net@149 vdd PMOS L=0.6U W=9U
Mpmos-4@10 net@149 net@255 net@168 vdd PMOS L=0.6U W=9U
Mpmos-4@11 net@168 net@246 net@172 vdd PMOS L=0.6U W=9U
Mpmos-4@12 net@172 net@65 yi vdd PMOS L=0.6U W=9U
Mpmos-4@13 vdd net@73 net@108 vdd PMOS L=0.6U W=9U
Mpmos-4@14 net@108 S2 net@202 vdd PMOS L=0.6U W=9U
Mpmos-4@15 net@202 net@246 net@238 vdd PMOS L=0.6U W=9U
Mpmos-4@16 net@238 S0 yi vdd PMOS L=0.6U W=9U
Xmy_inv_4@0 S3 net@73 my_device_widths__my_inv_4
Xmy_inv_4@4 S0 net@65 my_device_widths__my_inv_4
Xmy_inv_4@5 bi net@69 my_device_widths__my_inv_4
Xmy_inv_4@6 S1 net@246 my_device_widths__my_inv_4
Xmy_inv_4@7 S2 net@255 my_device_widths__my_inv_4

* Spice Code nodes in cell cell 'Y_GEN{sch}'
#VDD VDD 0 DC 5
#VINbi bi 0 DC 0 PULSE 0 5 1N 1N 1N 200N 300N
#VINS0 S0 0 DC 0 PULSE 0 5 1N 1N 1N 500N 1000N
#VINS1 S1 0 DC 0 PULSE 0 5 1N 1N 1N 0N 1000N
#VINS2 S2 0 DC 0 PULSE 0 5 1N 1N 1N 0N 1000N
#VINS3 S3 0 DC 0 PULSE 0 5 1N 1N 1N 1000N 1000N
#.TRAN 0 1000N
.include C:\Users\R9000X\Electric\C5_models.txt
.ENDS my_device_widths__Y_GEN

*** SUBCIRCUIT my_device_widths__1_bitALU FROM CELL 1_bitALU{sch}
.SUBCKT my_device_widths__1_bitALU A B C_Sel Cin Cout OUT S0 S1 S2 S3
** GLOBAL gnd
** GLOBAL vdd
XC_GEN@0 C_Sel Cin net@0 S0 S1 S2 S3 my_device_widths__C_GEN
XLogic_AL@0 A B net@47 S0 S1 S2 my_device_widths__Logic_ALU
XSel@1 net@59 net@47 OUT S0 S1 S2 S3 my_device_widths__Sel
XTRANADDE@0 A net@57 net@0 Cout net@59 my_device_widths__TRANADDER
XY_GEN@0 B S0 S1 S2 S3 net@57 my_device_widths__Y_GEN
.ENDS my_device_widths__1_bitALU

.global gnd vdd

*** TOP LEVEL CELL: 1_bitALU_sim{sch}
X_1_bitALU@0 A B vdd Cin Cout OUT S0 S1 S2 S3 my_device_widths__1_bitALU

* Spice Code nodes in cell cell '1_bitALU_sim{sch}'
VDD VDD 0 DC 5
VINA A 0 DC 0 PULSE 0 5 1N 1N 1N 100N 150N
VINB B 0 DC 0 PULSE 0 5 1N 1N 1N 200N 300N
VINCin Cin 0 DC 0 PULSE 0 5 1N 1N 1N 150N 400N
VINS0 S0 0 DC 0 PULSE 0 5 1N 1N 1N 0N 1000N
VINS1 S1 0 DC 0 PULSE 0 5 1N 1N 1N 1000N 1000N
VINS2 S2 0 DC 0 PULSE 0 5 1N 1N 1N 0N 1000N
VINS3 S3 0 DC 0 PULSE 0 5 1N 1N 1N 1000N 1000N
.TRAN 0 1000N
.include C:\Users\R9000X\Electric\C5_models.txt
.END
